US06528525B1
2-(3,4,5-Trifluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-184 compound)
In a similar manner to that described in Example 2, ethyl 2-(3,4,5-trifluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (380 mg), which is the product of Example 142, was reacted with aqueous sodium hydroxide solution (1N, 2.00 ml) and the reaction mixture was treated to give the title compound (320 mg) as a white powder.

reactant | ethyl 2-(3,4,5-trifluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 380 mg | FC=1C=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C(C1F)F | C31H27F3N2O5
reactant | sodium hydroxide | 1N, 2.00 ml | [OH-].[Na+]
product | 2-(3,4,5-Trifluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 320 mg | FC=1C=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C(C1F)F | C29H23F3N2O5
